Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Compazine / Seroquel / Haldol / fentanyl
 
Attending: ___.
 
Chief Complaint:
Chest pain, nausea/vomiting

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old man with PMH significant for sickle 
cell disease c/b bilateral AVN, asplenia, and prior acute chest 
syndrome, who presents with chest, joint, and back in as well as 
nausea/vomiting.  

Of note, review of patient's OMR reveals multiple recent PCP and 
___ visits for similar symptoms. For chronic pain, he has 
been managed with an increased in long-acting opiate. For 
nausea/vomiting, patient was supposed to undergo EGD which was 
missed due to transportation issues.  Most recently on ___, 
the patient presented to PCP's for ___ where he reported 
worsening symptoms and was referred to ___ clinic for IV 
fluids, from which he was referred to ___ ED where he was 
discharged with 2 day supply of PO dilaudid.

The patient now represents to ___ ED with similar symptoms. In 
the ED, initial vitals 98.2 69 115/56 14 98%RA. Labs notable for 
Chem-7 wnl, CBC with WBC 10.2 H/H 9.5/27.1 Plt 300, retic 10.6, 
LDH 263, Trop 0.02 CKMB 6, CK 5425. CXR without focal 
consolidation or evidence of acute chest.  Pt was administered 
IV dilaudid 4mg x2 (Q2H), IV diphenydramine 25mg x2, IV 
promethazine .1, and Toradol 30mg x1.  He is now admitted to 
Medicine for further treatment/management.  Vitals prior to 
transfer: 98.1 77 100/58 18 99% RA.

Upon arrival to the floor, VS 98.6 120/51 58 18 95%RA. The 
patient is lying comfortably in bed texting but reports ___ 
chest pain, back pain, joint pain, and poorly-controlled nausea 
and vomiting.

ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No nausea or 
vomiting. No diarrhea or constipation. No dysuria or hematuria. 
No hematochezia, no melena. No numbness or weakness, no focal 
deficits.
 
Past Medical History:
Sickle Cell
-prior acute chest syndrome requiring intubation, age ___
-prior exchange transfusions. 
-On exjade (deferasirox) for iron overload secondary to 
transfusions
-bilateral AVN of femoral head, first noted at age ___, requiring 

surgery with b/l core decompression at age ___ (___)
-?stroke- left-sided infarcts noted on head imaging 
(asymptomatic) around age ___
-functionally asplenic, uptodate on vaccines
-___ crises per year, worse in the ___
-Port A Cath placement x 4 given inability to achieve IV access  

-Appendectomy  
-Cholecystectomy

 
Social History:
___
Family History:
Sickle cell trait in family. Grandmother with breast cancer.

 
Physical Exam:
ADMISSION PHYSICAL EXAM 
======================= 
Vitals: 98.6 120/51 58 18 95%RA
General: Well-appearing young man, lying in bed, NAD
HEENT: NC/AT, PERRL, MMM, oropharynx clear
Neck: Supple
Lungs: CTAB
CV: RRR, II/VI systolic murmur, no r/g
Abdomen: Soft, NT/ND, no reboung/guarding or HSM
GU: No foley
Ext: WWP
Neuro: CN, motor, and sensation grossly intact

DISCHARGE PHYSICAL EXAM
=======================
Vitals: 98.3 104/55 61 16 98%RA
General: Well-appearing young man, lying in bed, earbuds in 
place, NAD
HEENT: NC/AT, EOMI
Neck: Supple
Lungs: Decreased at the bases, otherwise poor effort but grossly 
clear
CV: RRR, +S1/S2, III/VI systolic murmur
Abdomen: Exam limited by voluntary gaurding. Reports diffuse 
tenderness throughout
GU: No foley
Ext: WWP, no edema
Neuro: CN, motor, and sensation grossly intact

 
Pertinent Results:
ADMISSION LABS
==============
___ 05:55AM BLOOD WBC-10.2 RBC-2.68* Hgb-9.5* Hct-27.1* 
MCV-101* MCH-35.5* MCHC-35.1* RDW-19.9* Plt ___
___ 05:55AM BLOOD Neuts-50 Bands-0 ___ Monos-9 Eos-1 
Baso-1 ___ Myelos-0 NRBC-5*
___ 05:55AM BLOOD Ret Man-10.6*
___ 05:55AM BLOOD Glucose-104* UreaN-9 Creat-0.6 Na-138 
K-3.5 Cl-107 HCO3-25 AnGap-10
___ 05:55AM BLOOD CK(CPK)-5425*
___ 05:23AM BLOOD Calcium-7.4* Phos-2.5*# Mg-1.7

DISCHARGE LABS
==============
___ 07:00AM BLOOD WBC-7.2 RBC-2.53* Hgb-8.9* Hct-24.9* 
MCV-98 MCH-35.2* MCHC-35.7 RDW-16.8* RDWSD-59.7* Plt ___
___ 07:00AM BLOOD Ret Aut-7.0* Abs Ret-0.18*
___ 07:00AM BLOOD Glucose-102* UreaN-3* Creat-0.4* Na-139 
K-3.3 Cl-104 HCO3-24 AnGap-14
___ 07:00AM BLOOD ALT-44* AST-51* LD(LDH)-233 CK(CPK)-467* 
AlkPhos-101 TotBili-3.7*
___ 07:00AM BLOOD Calcium-8.5 Phos-3.1 Mg-1.7

REPORTS
=======
___ CXR
Mild peribronchial infiltration, similar to multiple prior 
exams, is likely residue of recent edema or early developing 
edema. No focal consolidation or evidence of acute chest 
syndrome. 
 
Brief Hospital Course:
This is a ___ year old male with a past medical history of sickle 
cell anemia, complicated by asplenia, femoral avascular 
necrosis, admitted ___ with acute pain crisis manifested 
as chest pain and nausea / vomiting, ruled out for acute chest, 
treated supportively per his inpatient pain crisis protocol with 
significant improvement, who requested  discharge home and then 
left AMA before safe discharge planning could be completed.  

# Sickle Cell Anemia / Sickle Cell Pain Crisis - Patient 
presented with worsening chest pain, back pain, and joint pain 
as well as nausea and reported pruritis. CXR in ED without 
evidence of acute chest or other acute process. EKG and cardiac 
biomarkers were within normal limits. The patient was without 
fever or localizing signs to suggest infection. The patient's 
pain, nausea/vomiting, and opiate-associated pruritus was 
treated according to his Inpatient Acute Pain Episode Protocol 
(see OMR note ___ for full documentation).  A 
multidisciplinary team meeting was held with the patient to 
emphasize this protocol.  The patient's labs including LDH, 
reticulocyte count, bilirubin were trended - all except 
bilirubin were improving at the time of discharge (Hb stable ~9, 
reticulocyte count downtrending from 10 to 7%). On the morning 
on ___, after reporting he was to nauseated to eat, he reported 
he wished to be discharged. In the setting of rising bilirubin 
to 3.7 and patient report of unimproved symptoms of pain and 
nausea, the medical team advised further discussion with care 
team and careful advancing of diet, as well as risks of leaving 
AMA including symptom worsening. The patient elected to leave 
AGAINST MEDICAL ADVICE (AMA).  The patient reported that he lost 
his most recent ___ narcotics prescriptions. After 
consultation with the patient's PCP, these prescriptions were 
reprinted for the patient. PCP ___ was scheduled for 
___ at 12noon. The patient's home PO hydroxyurea and folic 
acid were continued during this admission, but the patient 
refused these medications.  He was also ordered Lovenox for DVT 
prophylaxis, which he also refused.  He was placed on 2L 
continuous O2 and provided an incentive spirometer to prevent 
atelectasis. 

# Rhabdomyolysis - Patient with CK peaked at to 5425 on 
admission, likely secondary to mild muscle inflammation either 
as result of acute pain episode or a resolving viral infection 
that may have triggered the acute pain crisis.  This downtrended 
during this admission and normalized at the time of discharge. 

# Barriers to Care - Patient reported nausea during this 
admission, and inability to tolerate oral medications, but 
nursing had to remove a bag filled with candy and chips from his 
bedside, which he was attempting to eat; he frequently called 
his outpatient providers during the hospital stay; his treatment 
plan followed his Inpatient Acute Pain Episode Protocol (see OMR 
note ___ and team coordinated with outpatient providers to 
ensure unified message regarding treatment plan;  

===========================================
TRANSITIONAL ISSUES
===========================================
- Patient should be managed per his "Inpatient Pain Crisis 
Protocol" during future admissions
- NO changes were made to his medications
- The patient reported that he lost his most recent ___ 
narcotics prescriptions (oxycodone, MS ___ x2). After 
consultation with the patient's PCP, these prescriptions were 
reprinted for the patient. 
- PCP ___ scheduled for ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydroxyurea ___ mg PO DAILY 
2. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
3. Docusate Sodium 100 mg PO BID 
4. Exjade (deferasirox) ___ mg oral DAILY 
5. FoLIC Acid 5 mg PO DAILY 
6. Promethazine 25 mg PO Q6H:PRN nausea 
7. OxycoDONE (Immediate Release)  30 mg PO ___ pain 
8. Bisacodyl 10 mg PR QHS:PRN constipation 
9. Lidocaine 5% Patch 3 PTCH TD QAM 
10. Morphine SR (MS ___ 45 mg PO Q12H 
11. Capsaicin 0.025% 1 Appl TP TID 
12. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Medications:
1. Bisacodyl 10 mg PR QHS:PRN constipation 
2. Docusate Sodium 100 mg PO BID 
3. FoLIC Acid 5 mg PO DAILY 
4. Hydroxyurea ___ mg PO DAILY 
5. Lidocaine 5% Patch 3 PTCH TD QAM 
6. Morphine SR (MS ___ 45 mg PO Q12H 
7. OxycoDONE (Immediate Release)  30 mg PO ___ pain 
8. Promethazine 25 mg PO Q6H:PRN nausea 
9. Senna 8.6 mg PO BID:PRN constipation 
10. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
11. Capsaicin 0.025% 1 Appl TP TID 
12. Exjade (deferasirox) ___ mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
Sickle cell pain crisis
Elevated CK

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for back/joint pain, nausea, and 
vomiting. Tests were conducted and negative for acute chest or 
heart attack.  Your symptoms are likely due to sickle cell pain 
crisis.  Your pain, nausea/vomiting, and itching were treated 
per the protocol previously created by your primary providers.

You desired to leave the hospital on the morning of ___ for 
personal reasons.  You reported that your symptoms were not 
significantly improved and some of your labwork remained 
concerning at the time of discharge. We recommended that you 
stay for additional treatment and monitoring, but you elected to 
leave AGAINST MEDICAL ADVICE "AMA."

At discharge, you stated that you lost your most recent 
narcotics prescriptions, so these were reprinted for you after 
consultation with your primary care doctor. It is VERY important 
that you ___ with your doctors.  We have scheduled you 
___ with your primary care doctor on ___ at 12PM. 

Your ___ Team
 
Followup Instructions:
___